US04521413
A mixture of formic acid (5.02 g) and acetic anhydride (11.14 g) was stirred for 30 minutes at 40° to 45° C. and cooled in an ice bath. To the cold mixed anhydride was added a solution of 3-(2-hydroxyethyl)aminopyridine (5.80 g) in tetrahydrofuran (20 ml) under cooling in an ice bath and stirring, which was continued for two hours at room temperature. The mixture was evaporated to remove tetrahydrofuran and poured into water (100 ml). The mixture was adjusted to pH 6 to 7 with sodium bicarbonate and extracted with methylene chloride. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated to give 3-[N-(2-formyloxyethyl)formamido]-pyridine (7.47 g) as an oil.

reactant | formic acid | 5.02 g | C(=O)O | CH2O2
reactant | acetic anhydride | 11.14 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(2-hydroxyethyl)aminopyridine | 5.80 g | OCCNC=1C=NC=CC1 | C7H10N2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-[N-(2-formyloxyethyl)formamido]-pyridine | 7.47 g | C(=O)OCCN(C=O)C=1C=NC=CC1 | C9H10N2O3
